US08580957B2
To a solution of phenylmethyl({4-[(2S,4R)-1-acetyl-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}methyl)methylcarbamate (for a preparation see intermediate 81) (1 g, 1.793 mmol) in methanol (50 mL) was added acetyl chloride (2 mL, 28.1 mmol). The resulting mixture was stirred at room temperature for 3 h then concentrated in vacuovacuo. The residue was loaded on a 50 g SCX column, then eluted with MeOH (3 column volume (CV)) followed by 2N NH3 in methanol (4 CV). The ammonia fractions were combined and evaporated in vacuovacuo. Purification of the residue obtained by flash chromatography on silica gel (40 g column, gradient:0 to 5% (2N NH3 in MeOH) in DCM) gave phenylmethyl ({4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}methyl)methylcarbamate (581 mg, 1.27 mmol, 71%) as a colourless oil which solidified on standing.

reactant | phenylmethyl({4-[(2S,4R)-1-acetyl-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}methyl)methylcarbamate | C1(=CC=CC=C1)COC(N(C)CC1=CC=C(C=C1)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)NC(=O)OC(C)(C)C)=O | C33H39N3O5
reactant | acetyl chloride | 28.1 mmol, 2 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 50 mL | CO | CH4O
product | phenylmethyl ({4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}methyl)methylcarbamate | 1.27 mmol, 581 mg, 71% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CN(C(OCC1=CC=CC=C1)=O)C)N)C | C28H31N3O3
